US05747508
2-benzoylbenzo[b]furan:
2-(4-chlorobenzoyl)benzo[b]furan and 2-(4-bromobenzoyl)-benzo [b]furan: ibid., Ghelardoni, M.; Pestellini, V.; Musante, C.: Gazz. Chim. Ital. 99, 1273 (1969);

reactant | 2-(4-chlorobenzoyl)benzo[b]furan | ClC1=CC=C(C(=O)C2=CC3=C(O2)C=CC=C3)C=C1 | C15H9ClO2
reactant | 2-(4-bromobenzoyl)-benzo [b]furan | BrC1=CC=C(C(=O)C2=CC3=C(O2)C=CC=C3)C=C1 | C15H9BrO2
product | 2-benzoylbenzo[b]furan | C(C1=CC=CC=C1)(=O)C1=CC2=C(O1)C=CC=C2 | C15H10O2
